
* AD8436 SPICE Macro-model
* Description: rms-DC Converter 
* Generic Desc: Low Coat Low Power True RMS-dc Converter
* Developed by: MDC PRB IAP ADI
* Revision History: 10/11/12, - Rev. C - Updated to new header style 
* 3.0 (09/2009)
* Copyright 2012 by Analog Devices.
* 
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled: Temperature effects
*
* Parameters modeled include:
*
* END Notes
*
* Node assignments
*               No Connect
*               |   AC input to RMS core
*               |   |    Input Buffer Output 
*               |   |     |      Input Buffer Minus input
*               |   |     |       |     Input Buffer Positive Input
*               |   |     |       |       |      Input Buffer Gain resistor
*               |   |     |       |       |       |   No Connect
*               |   |     |       |       |       |    |   OGND 
*               |   |     |       |       |       |    |    |  OUTPUT of RMS core
*               |   |     |       |       |       |    |    |   |  Negative Supply
*               |   |     |       |       |       |    |    |   |   |   Half Supply Node
*               |   |     |       |       |       |    |    |   |   |    |    Output Buffer Positive Input
*               |   |     |       |       |       |    |    |   |   |    |     |      Output Buffer Minus Input 
*               |   |     |       |       |       |    |    |   |   |    |     |       |      Output Buffer Output
*               |   |     |       |       |       |    |    |   |   |    |     |       |       |      Output Buffer Power Supply
*               |   |     |       |       |       |    |    |   |   |    |     |       |       |       |     Input Buffer Power Supply
*               |   |     |       |       |       |    |    |   |   |    |     |       |       |       |      |   Positive Supply Rail
*               |   |     |       |       |       |    |    |   |   |    |     |       |       |       |      |    |  Crest Factor Averaging
*               |   |     |       |       |       |    |    |   |   |    |     |       |       |       |      |    |   |   Averaging Capacitor
*               |   |     |       |       |       |    |    |   |   |    |     |       |       |       |      |    |   |    |  Summing amplifier input node
*               |   |     |       |       |       |    |    |   |   |    |     |       |       |       |      |    |   |    |   | 
.subckt AD8436 DNC RMS IBUFOUT IBUFINM IBUFINP IBUFGN DNC OGND OUT VEE IGND OBUFINP OBUFINM OBUFOUT OBUFVP IBUFVP VCC CCF CAVG SUM
B2 0 OUT I=I(V16)
R4 CCF 567 1k
V16 567 0 0
R6 CCF CAVG 4k
R1 IGND VEE 100k
R2 VCC IGND 100k
R7 OUT OGND 16k
G1 0 N013 N015 IBUFINM 1
R5 N013 0 1e6
V6 N015 IBUFINP 0.5m
I4 IBUFINP 0 25p
I3 IBUFINM 0 25p
R8 IBUFOUT IBUFINM 10k
R16 IBUFINM IBUFGN 10k
C2 IBUFOUT IBUFINM 10p
G2 0 N008 N011 N010 1
R10 N008 0 1e6
C3 N013 0 10.1e-8
C4 N008 0 4.3e-7
R11 OBUFINM N010 16k
I6 OBUFINP 0 1.5n
I5 OBUFINM 0 1.5n
V9 N011 OBUFINP 100u
V8 VCCX N009 1.9
B3 IBUFVP VEE I=IF( (V(IBUFVP)-V(VEE) ) > 4.8, 160u, 0)
B4 OBUFVP VEE I=IF( (V(OBUFVP)-V(VEE) ) > 4.8, 40u, 0)
B5 VCC VEE I=IF( (V(VCC) - V(VEE) ) > 4.8, 325u, 0)
E2 VCCX 0 VCC 0 1
E3 VEEX 0 VEE 0 1
G3 0 OBUFOUT N008 0 1
R12 OBUFOUT 0 1
C5 OBUFOUT 0 3.6e-7
G4 0 IBUFOUT N013 0 1
R13 IBUFOUT 0 1
C6 IBUFOUT 0 8.3e-8
R14 0 DNC 1e6
D1 N013 N014 D
D2 N012 N013 D
V5 VCCX N014 .875
V3 N012 VEEX .875
R9 IBUFINM 0 10e12
R15 IBUFINP 0 10e12
D3 N008 N009 D
D4 N007 N008 D
V7 N007 VEEX 0.88
G5 IGND N004 IGND SUM 1
R17 N004 IGND 1e6
*F1 0 N005 V12 1.00025
F1 0 N005 V12 .500125
C8 N004 IGND 2.62e-8
E4 N002 IGND N004 IGND 1
V12 SUM N001 0
D5 N001 N002 D
D6 N002 N006 D
V13 N006 SUM 0
*F2 0 N005 V13 .99975
F2 0 N005 V13 .499875
V11 N005 0 0
B1 0 CAVG I=I(V11)**2/ABS(I(V16))
R3 N003 RMS 8k
V10 SUM N003 0
.model D D

.IC V(CAVG)=.1n

.ends
